US05733912
7a-(5-chloro-6-fluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt
7a-(5-chloro-6-fluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine was dissolved in Et2O, and Et2O saturated with HCl (g) was added. The solvent was removed, and the solid was triturated with Et2O and dried to afford the title compound as a white powder (35 mg, 74%): mp 181°-183° C.; 1H NMR (D2O, 300 MHz) δ2.15-2.50 (m, 6H), 2.56-2.65 2H), 3.34-3.42 (m, 2H), 3.79-3.87 (m, 2H), 8.24-8.29 (m, 2H); MS (CI/NH3) m/z: 241 (M+H)+ ; MS (CI/NH3): m/z 241/243 (M+H+). Anal. Calcd for C12H14 ClFN2.HCl: C, 52.00; H, 5.45; N, 10.11. Found: C, 51.81; H, 5.62; N, 9.84.

reactant | 7a-(5-chloro-6-fluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine | ClC=1C=C(C=NC1F)C12CCCN2CCC1 | C12H14ClFN2
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 7a-(5-chloro-6-fluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt | 35 mg, 74% | Cl.ClC=1C=C(C=NC1F)C12CCCN2CCC1 | InChI=1S/C12H14ClFN2.ClH/c13-10-7-9(8-15-11(10)14)12-3-1-5-16(12)6-2-4-12;/h7-8H,1-6H2;1H
